US07932272B2
(C-(4-(3-Fluorophenoxy)thiophen-2-yl)methylamine
4-(3-Fluorophenoxy)thiophene-2-carbaldehyde described in Preparation Example 34 (210 mg, 0.95 mmol) was dissolved in 7N ammonia/methanol (30 mL), Raney nickel (500 mg) was added thereto, followed by stirring for 19 hours under hydrogen atmosphere at room temperature. The reaction mixture was filtered through Celite pad, Raney nickel was removed, silica gel was added to the filtrate, then, the solvent was evaporated in vacuo, for adsorption on silica gel, purification by silica gel chromatography (ethyl acetate, then ethyl acetate:methanol=4:1) was carried out, and the title compound (70 mg, 0.32 mmol) was obtained as a pale yellow oil.

reactant | 4-(3-Fluorophenoxy)thiophene-2-carbaldehyde | FC=1C=C(OC=2C=C(SC2)C=O)C=CC1 | C11H7FO2S
reactant | ammonia methanol | 7N, 30 mL | N.CO
catalyst | Raney nickel | 500 mg | [Ni] | Ni
product | C-(4-(3-Fluorophenoxy)thiophen-2-yl)methylamine | 0.32 mmol, 70 mg | FC=1C=C(OC=2C=C(SC2)CN)C=CC1 | C11H10FNOS
